US08895580B2
Step 2: Preparation of 2-(2,6-difluorophenyl)-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
Ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydroquinoline-3-carboxylate (0.10 g, 0.27 mmol) was dissolved in phosphorus oxychloride (0.75 mL, 8.0 mmol, 30 equiv) and stirred vigorously for 1 hour at ambient temperature. The mixture was concentrated in vacuo and the residue was concentrated from toluene (3×10 mL). The resulting 4-chloro-3-[(ethyloxy)carbonyl]-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}quinolinium salt was dissolved in N,N-dimethylformamide (3 mL) and treated with (2,6-difluorophenyl)hydrazine (92 mg, 0.64 mmol, 2.5 equiv) and potassium carbonate (0.18 g, 1.3 mmol, 5 equiv). The mixture was placed into an oil bath preheated to 80° C. for 1 hour, cooled to ambient temperature and concentrated in vacuo. The residue was purified by preparative reverse phase HPLC (82:20 to 5:95; water containing 0.05% trifluoroacetic acid:acetonitrile containing 0.05% trifluoroacetic acid), providing the titled compound: 1H-NMR (400 MHz, d6-DMSO) δ 9.18 (1H, s), 8.46 (1H, d, J=2.5 Hz), 8.18 (1H, dd, J=7.9, 1.3 Hz), 7.83 (2H, d, J=8.7 Hz), 7.78 (1H, d, J=9.0 Hz), 7.72 (1H, d, J=1.6 Hz), 7.66-7.57 (2H, m), 7.53 (1H, t, J=7.4 Hz), 7.48 (2H, d, J=8.5 Hz), 7.34 (2H, t, J=8.3 Hz), 6.53 (1H, dd, J=2.4, 1.8 Hz), 5.78 (2H, s) ppm; low resolution mass spectrometry (ES+) m/z 453.9 [(M+H)+; calculated for C26H18F2N5O: 454.1].

reactant | Ethyl 4-oxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydroquinoline-3-carboxylate | 0.27 mmol, 0.10 g | O=C1C(=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)N1N=CC=C1)C(=O)OCC | C22H19N3O3
reactant | phosphorus oxychloride | 8.0 mmol, 0.75 mL, 30 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (2,6-difluorophenyl)hydrazine | 0.64 mmol, 92 mg, 2.5 equiv | FC1=C(C(=CC=C1)F)NN | C6H6F2N2
reactant | potassium carbonate | 1.3 mmol, 0.18 g, 5 equiv | C([O-])([O-])=O.[K+].[K+]
product | 2-(2,6-difluorophenyl)-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | FC1=C(C(=CC=C1)F)N1N=C2C(=CN(C=3C=CC=CC23)CC2=CC=C(C=C2)N2N=CC=C2)C1=O | C26H17F2N5O
